US07253286B2
7-Benzyloxy-6-cyano-4-(3-fluoro-4-nitrophenoxy)quinoline
The 7-benzyloxy-4-chloro-6-cyanoquinoline (8.82 g, 30.0 mmol) described in WO98/13350 was suspended in 1-methylpyrrolidone (30 ml), and then 3-fluoro-4-nitrophenol (5.18 g, 33.0 mmol) and N,N-diisopropylethylamine (3.88 g, 30.0 mmol) were added and the mixture was heated and stirred at 110° C. for 4 hours. After returning the reaction system to room temperature, water was added and a solid precipitated. The obtained solid was filtered out, washed with water, methanol and ethyl acetate and dried at 60° C. to obtain the title compound (4.98 g, 12.0 mmol, 40%) as colorless crystals.

reactant | 7-benzyloxy-4-chloro-6-cyanoquinoline | 30.0 mmol, 8.82 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)C#N | C17H11ClN2O
reactant | 3-fluoro-4-nitrophenol | 33.0 mmol, 5.18 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | N,N-diisopropylethylamine | 30.0 mmol, 3.88 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | 1-methylpyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
product | 7-Benzyloxy-6-cyano-4-(3-fluoro-4-nitrophenoxy)quinoline | 12.0 mmol, 4.98 g, 40% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])F)C#N | C23H14FN3O4
